datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64].O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>C[C:63]([NH+:12]=[C:11](C1=CCCCC1)[CH2:10][C:20]([S-:21])=[N:31]C1=CC=C([N+](=O)[O-])C=C1)=[O:64] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.C[C:11]1=[CH:10][NH:14][C:13](C)=[CH:12]1>>C[C:11]1=[CH:12][C:13](C)=[NH+:14][CH:10]1[CH:20]([CH:21]=[CH:22][N:23](CC1=CC=CC=C1)CC1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>FC(F)(F)[S:61]([CH:10]([CH:20]([N:21]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20;20,21=21"
"C1C[CH:10]=[C:11]([N:12]2CCCC2)C1.[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>C1C[CH:10]([CH:20]2[CH:21]=[C:22]([O-:23])[O:43][C:31]2=[O:32])[C:11](=[N+:12]2CCCC2)C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11]2=[N:10]CCC[N:12]2CC1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2CCCCC3)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.[N-:10]=[C:61]=[S:62]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([N:10]=[C:61]=[S:62])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10=20;20,21=21"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C1C[C:22]([O-:23])=[CH:21][CH:20]1[H:10].C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])C1.C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64]>>C[C:63]([NH+:12]=[C:11](C1=CC=C(Cl)C=C1)[CH2:10][C:20]1([O-:21])CCC1)=[O:64] 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][C:64]([B-:82](F)(F)F)=[CH:63]2>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]2[CH:11]=[N+:12](C)[C:61]3=[C:62]2[CH:63]=[C:64]([B-:82](F)(F)F)[CH:65]=[CH:66]3)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1.[N-:10]=[C:61]=[S:62]>>Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1.[N:10]([Cl:20])=[C:61]=[S:62] 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([C:20]3([O-:21])CCSCC3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21"
"COC(=O)[C@@H]1CCC[N:12]1[C:11]1=[CH:10]CCCC1.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>COC(=O)[C@@H]1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:12]1[CH:11]=[N:10][C:61]2=[C:62]1C=CC=C2.Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>C[N+:12]1=[CH:11][N:10]([C:20]2([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]2Cl)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[N:62](C)[C:61](=[NH:10])[N:72](C)C>>C[N:62](C)[C:61](=[NH+:10][CH:20]1[CH:21]=[C:22](C2=CC=CC=C2)[O:23][C:32]2=[C:31]1C=CC=C2)[N:72](C)C 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>CC(C)(C)[P+:10](C1=CC=CC=C1)(C(C)(C)C)[CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C1C[CH:10]=[C:11]([N:12]2CCCC2)C1>>C1C[CH:10]([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:11](=[N+:12]2CCCC2)C1 10,11=10,20;12=11,12"
